US03954697
The procedure of Example 1 is followed except that the monomer mixture contains 20 wt. % propylene, 40 wt. % 1-hexene and 40 weight % 1-octene. The propylene/1-hexene/1-octene terpolymer is obtained in 63% conversion. This tacky copolymer has no detectable crystallinity by either DSC or X-ray analysis, has a density of 0.854 and a Tg of -38. Its pressure-sensitive adhesive properties are similar to those of the propylene/1-hexene copolymer described in Example 1.

reactant | propylene | C=CC | C3H6
reactant | 1-hexene | C=CCCCC | C6H12
reactant | 1-octene | C=CCCCCCC | C8H16
product | propylene/1-hexene 1-octene | C=CC.C=CCCCC.C=CCCCCCC | InChI=1S/C8H16.C6H12.C3H6/c1-3-5-7-8-6-4-2;1-3-5-6-4-2;1-3-2/h3H,1,4-8H2,2H3;3H,1,4-6H2,2H3;3H,1H2,2H3
